US07767672B2
tert-butyl 3-hydroxy-3-(1-hydroxy-2-methylpropan-2-yl)azetidine-1-carboxylate
A solution of tert-butyl 3-(2-(ethoxycarbonyl)propan-2-yl)-3-hydroxyazetidine-1-carboxylate (0.50 g, 1.74 mmol) in DCM (5 ml) was cooled to −78° C. A solution of DIBAL-H in DCM (5.23 mmol, 5.23 ml, 1M) was added dropwise and the solution allowed to warm to 0° C. and stirred for 4 hrs. Sat NH4Cl (20 ml) and ethyl acetate (40 ml) was added. The organic layer washed with brine (30 ml), dried (Na2SO4), and concentrated to give an oil. The oil was purified by flash column chromatography eluting with 30 to 70% ethylacetate/hexanes to give the title compound as a colorless oil 0.20 g, 47%. 1H NMR (CDCl3, 400 Mhz) 1.01 (6H, s), 1.43 (9H, s), 3.58 (2H, s), 3.75 (2H, d), 4.03 (2H, d).

reactant | tert-butyl 3-(2-(ethoxycarbonyl)propan-2-yl)-3-hydroxyazetidine-1-carboxylate | 1.74 mmol, 0.50 g | C(C)OC(=O)C(C)(C)C1(CN(C1)C(=O)OC(C)(C)C)O | C14H25NO5
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5.23 mmol, 1M, 5.23 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-hydroxy-3-(1-hydroxy-2-methylpropan-2-yl)azetidine-1-carboxylate | 0.20 g, 47% | OC1(CN(C1)C(=O)OC(C)(C)C)C(CO)(C)C | C12H23NO4
